US04544662
Potassium carbonate (6.0 g.) was added to a solution of 3-benzyloxycarbonyloxy-1-(3,4-dichlorobenzyl)-7-fluoro-2-oxoindoline-3-carboxamide (2.0 g.) in toluene (100 ml.). The mixture was stirred and heated under reflux for 1 hour. The toluene was removed by evaporation and the residue partitioned between ether (100 ml.) and water (100 ml.). The aqueous phase was adjusted to pH 5 with 2M hydrochloric acid. The ether phase was then separated, washed with water, brine and then dried (MgSO4) and evaporated to give 1'-(3,4-dichlorobenzyl)-7'-fluorospiro[oxazolidine-5,3'-indoline]-2,2',4-trione, as a solid, m.p. 140°-142° C. (recrystallised from ethyl acetate/petrol 60-80).

reactant | Potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-benzyloxycarbonyloxy-1-(3,4-dichlorobenzyl)-7-fluoro-2-oxoindoline-3-carboxamide | 2.0 g | C(C1=CC=CC=C1)OC(=O)OC1(C(N(C2=C(C=CC=C12)F)CC1=CC(=C(C=C1)Cl)Cl)=O)C(=O)N | C24H17Cl2FN2O5
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1'-(3,4-dichlorobenzyl)-7'-fluorospiro[oxazolidine-5,3'-indoline]-2,2',4-trione | ClC=1C=C(CN2C(C3(C4=CC=CC(=C24)F)C(NC(O3)=O)=O)=O)C=CC1Cl | C17H9Cl2FN2O4
